US08314100B2
1-[(6-Fluoro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(3-methylphenyl)piperazine (Compound 92)
Ethyl N-(6-fluoro-3-methoxyquinoxalin-2-yl)carbamate and 1-(3-methylphenyl)piperazine were reacted by the same way with the example 85 to obtain the titled compound (yield, 87%). 1H NMR (200 MHz, CDCl3): δ 2.33 (s, 3H), 3.26-3.30 (m, 4H), 3.74-3.77 (m, 4H), 4.15 (s, 3H), 6.74-6.77 (m, 3H), 7.16-7.29 (m, 3H), 7.40 (dd, J=9.6 and 2.7 Hz, 1H), 7.78-7.81 (m, 1H).

reactant | Ethyl N-(6-fluoro-3-methoxyquinoxalin-2-yl)carbamate | FC=1C=C2N=C(C(=NC2=CC1)NC(OCC)=O)OC | C12H12FN3O3
reactant | 1-(3-methylphenyl)piperazine | CC=1C=C(C=CC1)N1CCNCC1 | C11H16N2
product | 1-[(6-Fluoro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(3-methylphenyl)piperazine | 87% | FC=1C=C2N=C(C(=NC2=CC1)NC(=O)N1CCN(CC1)C1=CC(=CC=C1)C)OC | C21H22FN5O2
